US07030262B2
(4R)-4-benzyl-3-(5-methylhexanoyl)-1,3-oxazolidin-2-one
To a −78° C. solution of 4(R)-benzyl-2-oxazolidinone (21.28 g, 0.12 mol) in THF (360 mL) was added n-butyllithium (48 mL, 2.5M in hexane, 120 mmol). After 10 minutes Example 8A (19.76 g, 0.134 mol) was added. After 30 minutes the mixture was warmed to 0° C., and quenched with saturated ammonium chloride. The supernatant was decanted and concentrated. The residue was partitioned between water and ethyl acetate and the organic layer was washed sequentially with water, 1M sodium bicarbonate, water, and brine, dried (MgSO4), filtered, and concentrated to provide the desired product. MS (ESI) m/e 290 (M+H)+.

reactant | 4(R)-benzyl-2-oxazolidinone | 0.12 mol, 21.28 g | C(C1=CC=CC=C1)[C@H]1NC(OC1)=O | C10H11NO2
reactant | n-butyllithium | 120 mmol, 2.5M, 48 mL | C(CCC)[Li]
reactant | THF | 360 mL | C1CCOC1 | C4H8O
product | (4R)-4-benzyl-3-(5-methylhexanoyl)-1,3-oxazolidin-2-one | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C(CCCC(C)C)=O | C17H23NO3
